US07582657B2
(2E)-3-[4-(tert-Butyl)phenyl]-N-[3-(2-hydroxyethoxy)phenyl]prop-2-enamide
To a round-bottomed flask, equipped with magnetic stirring and reflux condenser, was added (2E)-3-[4-(tert-butyl)phenyl]-N-(3-hydroxyphenyl)prop-2-enamide, Example 23, (200 mg, 0.68 mmol), THF (10 mL), 2-bromoethanol (200 uL, 2.80 mmol, Aldrich) and 5 N NaOH (10 mL). The reaction mixture was stirred at reflux for 5 h. After allowing to cool to 25° C., the mixture was extracted with EtOAc (20 mL). The organic extract was washed with water (20 mL), dried over Na2SO4, filtered and concentrated in vacuo. Purification by silica gel chromatography (2:1 hexane:EtOAc) provided the title product as a colorless oil. MS (ESI, pos. ion) m/z: 340 (M+1).

reactant | (2E)-3-[4-(tert-butyl)phenyl]-N-(3-hydroxyphenyl)prop-2-enamide | C(C)(C)(C)C1=CC=C(C=C1)/C=C/C(=O)NC1=CC(=CC=C1)O | C19H21NO2
reactant | THF | 0.68 mmol, 10 mL, 200 mg | C1CCOC1 | C4H8O
reactant | 2-bromoethanol | 2.80 mmol, 200 uL | BrCCO | C2H5BrO
solvent | NaOH | 5 N, 10 mL | [OH-].[Na+]
product | (2E)-3-[4-(tert-Butyl)phenyl]-N-[3-(2-hydroxyethoxy)phenyl]prop-2-enamide | C(C)(C)(C)C1=CC=C(C=C1)/C=C/C(=O)NC1=CC(=CC=C1)OCCO | C21H25NO3
